2106-01-24 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 104.4
F - [**2106-1-23**] 11:00 PM
   - treated with tylenol and ice packs
   - BCx grew GNRs, already double-covered with previous antibiotic
   choices
   - was started on levophed for decreasing SvO2 and eventually MAPs in
   50s
   SUBJ:
   This AM, feels better than last night, only complaint this AM is still
   feels febrile. Improved chills, body aches/myalgias.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2106-1-23**] 06:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-24**] 04:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-1-23**] 02:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-24**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.4
   Tcurrent: 38.4
C (101.1
   HR: 68 (65 - 97) bpm
   BP: 105/62(72) {79/40(50) - 137/73(85)} mmHg
   RR: 25 (18 - 39) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 2 (2 - 11)mmHg
   SvO2: 67%
   Total In:
                                                                 11,740 mL
                                                                    125 mL
   PO:
                                                                  1,590 mL
   TF:
   IVF:
                                                                  4,150 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  5,080 mL
                                                                  2,070 mL
   Urine:
                                                                  5,080 mL
                                                                  2,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,660 mL
                                                                 -1,945 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), borderline tachy, no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   fine crackles at bases, R > L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, no rash or petechiae
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   171 K/uL
   11.8 g/dL
   137 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   7 mg/dL
   113 mEq/L
   141 mEq/L
   33.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2106-1-23**]  11:52 AM
                             [**2106-1-23**]  05:06 PM
                             [**2106-1-24**]  03:54 AM
   WBC
   10.3
   7.0
   Hct
   34
   31.8
   33.4
   Plt
   167
   171
   Cr
   0.8
   0.9
   Glucose
   124
   137
   Other labs: Lactic Acid:1.5 mmol/L, Ca++:7.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.7 mg/dL
   Fluid analysis / Other labs: U/A: 20 WBC, small Le, few bact, 0 epis
   Imaging: [**1-23**] CXR
   Cardiomediastinal silhouette is unchanged allowing for differences in
   technique.  Pulmonary vascularity is unremarkable.  Lungs are clear and
   there is no evidence of pleural effusion or pneumothorax.
   Microbiology:
   [**1-23**]: 2/3 bottles wih GNR
   [**1-23**] UCx: PND
   Assessment and Plan
   50M with gram negative sepsis after prostate biopsy
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   -          Confirmed GNR in blood, followup S/S of bug. Source likely
   GU tract. Daily blood cultures until cleared
   -          continue zosyn and gentamycin with daily gentamycin troughs
   prior to redosing (goal <2), check with ID re: dosing if trough is >2
   -          tailor antibiotics as appropriate
   -          s/p 9L of fluid yesterday with excellent urine output, goal
   is to maintain CVP >8
   -          maintaining SvO2 >70 and MAP > 65 with levophed, wean off as
   tolerated
   -          no clear indication for steroids
   -          tight glyemic contorl <150 with ISS
 URINARY TRACT INFECTION (UTI)
   -          U/A appears dirty, f/u culture (drawn after dosing of
   antibiotics in the ED)
   -          Should be covered on current antibiotic regimen
 H/O DEPRESSION
   -          Continue Wellbutrin, clarify dose today
 ? BRUGADA SYNDROME - No FH of sudden cardiac death
   -          EKG with evidence of small STE and RBBB in V1-V2
   -          Cardiology aware and will staff on Monday. Pt will need
   outpatient referral. Will monitor on telemetry.
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-1-23**] 10:00 AM
 if able to be weaned off of
   levophed today, with stable BP and good PIVs, could d/c
   18 Gauge - [**2106-1-23**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Addendum:
   Follow up urology recs today re: obtaining prostatic ultrasound to
   evaluate for abscess formation
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 208**], MD
   on:[**2106-1-24**] 11:26 ------

2106-01-24 09:26:00 Physician Attending Progress Note
Chief Complaint: 60 year old man with urosepsis following prostate bx
   last Thursday. Pressure to 80's in ED tx'd with fluids and BP returned.
   Admitted to ICU for f/u
   Had been on CIPRO since bx.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Put on Ceftriaxone, Levo, Vanc in ED. BP fell over the day and
   eventually required Levophed. Spiked thru AB and change dto Zosyn/Gent
   and BC's grew GNR.
   24 Hour Events:
 MULTI LUMEN - START [**2106-1-23**] 10:00 AM
 URINE CULTURE - At [**2106-1-23**] 05:25 PM
 FEVER - 104.4
F - [**2106-1-23**] 11:00 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2106-1-23**] 06:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-24**] 04:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-1-23**] 02:54 PM
   Other medications:
   wellbutrin, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-24**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.4
   Tcurrent: 37.7
C (99.8
   HR: 68 (65 - 97) bpm
   BP: 102/59(68) {79/40(50) - 137/73(85)} mmHg
   RR: 23 (18 - 39) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 7 (2 - 11)mmHg
   SvO2: 64%
                                Total In:
                                                                 11,740 mL
                                                                    138 mL
   PO:
                                                                  1,590 mL
                                TF:
   IVF:
                                                                  4,150 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  5,080 mL
                                                                  2,645 mL
   Urine:
                                                                  5,080 mL
                                                                  2,645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,660 mL
                                                                 -2,507 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : Fine at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Tactile
   stimuli, Oriented (to): 3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.8 g/dL
   171 K/uL
   137 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   7 mg/dL
   113 mEq/L
   141 mEq/L
   33.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2106-1-23**]  11:52 AM
                             [**2106-1-23**]  05:06 PM
                             [**2106-1-24**]  03:54 AM
   WBC
   10.3
   7.0
   Hct
   34
   31.8
   33.4
   Plt
   167
   171
   Cr
   0.8
   0.9
   Glucose
   124
   137
   Other labs: Lactic Acid:1.5 mmol/L, Ca++:7.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.7 mg/dL
   Imaging: CXR - normal
   Microbiology: BC - GNR
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   On Gent/Zosyn - doing well, can wean levophed to off today
 URINARY TRACT INFECTION (UTI)
   As above
 .H/O DEPRESSION
   Continue Wellbutrin
   >Cards consult for abnormal ECG
   ICU Care
   Nutrition:
   Comments: Full diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-1-23**] 10:00 AM
   18 Gauge - [**2106-1-23**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2106-01-25 06:55:00 Physician Resident Progress Note
Chief Complaint: Urosepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2106-1-24**] 11:00 AM
 EKG - At [**2106-1-24**] 01:00 PM
 BLOOD CULTURED - At [**2106-1-25**] 04:00 AM
 FEVER - 102.8
F - [**2106-1-24**] 07:00 PM
   Weaned off of levophed
   Episode of dyspnea, felt to have pulmonary edema, improved with 10 IV
   lasix
   GNR found to be resistant to gentamicin, switched to meropenem
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2106-1-23**] 06:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-24**] 07:30 PM
   Meropenem - [**2106-1-25**] 03:52 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-1-24**] 01:15 PM
   Heparin Sodium (Prophylaxis) - [**2106-1-25**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Dysuria
   Musculoskeletal: No(t) Joint pain
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2106-1-25**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.3
C (101
   HR: 70 (61 - 104) bpm
   BP: 105/67(75) {85/46(56) - 130/74(86)} mmHg
   RR: 23 (19 - 43) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 4 (2 - 14)mmHg
   SvO2: 64%
   Total In:
                                                                  3,172 mL
                                                                    700 mL
   PO:
                                                                  1,680 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  1,492 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  7,300 mL
                                                                  1,870 mL
   Urine:
                                                                  7,300 mL
                                                                  1,870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,128 mL
                                                                 -1,170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   fine crackles at bases b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   143 K/uL
   11.5 g/dL
   112 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.9 mEq/L
   9 mg/dL
   113 mEq/L
   141 mEq/L
   33.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2106-1-23**]  11:52 AM
                             [**2106-1-23**]  05:06 PM
                             [**2106-1-24**]  03:54 AM
                             [**2106-1-24**]  01:04 PM
                             [**2106-1-24**]  01:11 PM
                             [**2106-1-24**]  06:00 PM
                             [**2106-1-24**]  06:02 PM
                             [**2106-1-25**]  04:09 AM
   WBC
   10.3
   7.0
   6.2
   7.1
   Hct
   34
   31.8
   33.4
   37
   36
   35.3
   33.5
   Plt
   167
   171
   141
   143
   Cr
   0.8
   0.9
   0.9
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   124
   137
   131
   112
   Other labs: CK / CKMB / Troponin-T:157/2/<0.01, Lactic Acid:2.0 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:1.1 mg/dL
   CXR [**1-24**]:
   Since earlier on [**1-23**], pulmonary vasculature has become engorged
    and
   there is new perihilar opacification in both lower lungs as well as a n
   ew
   small right pleural effusion.  Overall, findings suggest cardiac
   decompensation, but I cannot exclude a contribution from either infecti
   on or
   aspiration, inducing atelectasis.  The heart is normal size and mediast
   inal
   vasculature is not engorged.  Tip of the right jugular line projects ov
   er the
   low SVC.  No nasogastric or endotracheal tube is seen.  No pneumothorax
   .
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 URINARY TRACT INFECTION (UTI)
 .H/O DEPRESSION
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-1-23**] 10:00 AM
   18 Gauge - [**2106-1-23**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-01-25 11:34:00 Physician Attending Progress Note
Chief Complaint: urosepsis after prostate bx
   HPI:
   50 yo M w/ recent prostate bx presented with fevers hypotension and
   leukocytosis
   24 Hour Events:
   Weaned off pressors overnight
   Episode of dyspnea, pulmonary edema seen on CXR, improved w/ 10mg IV
   lasix w/ significant output
 FEVER - 102.8
F - [**2106-1-24**] 07:00 PM
 BLOOD CULTURED - At [**2106-1-25**] 04:00 AM
   GNR resistant to zosyn/gent, switched to meropenem
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2106-1-23**] 06:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-24**] 07:30 PM
   Meropenem - [**2106-1-25**] 09:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-1-24**] 01:15 PM
   Heparin Sodium (Prophylaxis) - [**2106-1-25**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: No(t) Dysuria
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Flowsheet Data as of  [**2106-1-25**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.4
C (99.4
   HR: 75 (61 - 104) bpm
   BP: 101/64(72) {86/48(58) - 130/74(86)} mmHg
   RR: 21 (10 - 43) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (4 - 14)mmHg
   SvO2: 74%
                                Total In:
                                                                  3,172 mL
                                                                  1,200 mL
   PO:
                                                                  1,680 mL
                                                                  1,000 mL
   TF:
   IVF:
                                                                  1,492 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  7,300 mL
                                                                  3,420 mL
   Urine:
                                                                  7,300 mL
                                                                  3,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,128 mL
                                                                 -2,220 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) Rub,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Diminished: b/b)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   143 K/uL
   112 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.9 mEq/L
   9 mg/dL
   113 mEq/L
   141 mEq/L
   33.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2106-1-23**]  11:52 AM
                             [**2106-1-23**]  05:06 PM
                             [**2106-1-24**]  03:54 AM
                             [**2106-1-24**]  01:04 PM
                             [**2106-1-24**]  01:11 PM
                             [**2106-1-24**]  06:00 PM
                             [**2106-1-24**]  06:02 PM
                             [**2106-1-25**]  04:09 AM
   WBC
   10.3
   7.0
   6.2
   7.1
   Hct
   34
   31.8
   33.4
   37
   36
   35.3
   33.5
   Plt
   167
   171
   141
   143
   Cr
   0.8
   0.9
   0.9
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   124
   137
   131
   112
   Other labs: CK / CKMB / Troponin-T:157/2/<0.01, Lactic Acid:2.0 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:1.1 mg/dL
   Imaging: new c/t [**1-23**]--pulmonary edema, relatively clear  cp angles b/l
   Assessment and Plan
   50 yo M with resolving urosepsis after recent prostate bx
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   -          No longer hypotensive, and successfully weaned from pressors
   -          Confirmed GNR in blood w/ S/S showing BSR.  Swiched from
   gent/zosyn to meropenem.  Patient continues to be febrile.  Follow with
   daily blood cultures until cleared
   -          CVP of 4, at goal, but will provide fluid/pressor support as
   necessary
   -          Tight glycemic control < 150 with ISS
   -          Likely secondary to infection from prostate bx, urology
   following.  Per urology, no need for prostate u/s at this time to r/o
   abcess.
 BRIGHT RED BLOOD PER RECTUM
   -          500 cc of BRBPR and large clots
   -          Access confirmed, T+S established, Hct stable
   -          Urology called for concern of prostate hemorage and GI
   called for concern of ischemic bowl in setting of hypotension,  f/u
   recs.
   -          Will check serial Hct and lactate
 .H/O DEPRESSION
   -          continue wellbutrin home dose
 ? Brugada syndrome:
   -          q? of small STE elevations in V1-V2 and RBBB, cards called
   in ED, but pattern not concerning for Brugada.  No hx of SCD.
   -          f/u cards recs
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2106-1-23**] 10:00 AM RIJ
   18 Gauge - [**2106-1-23**] 10:00 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: not- indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40
   ------ Protected Section ------
   This note was mistakenly signed by Dr. [**Last Name (STitle) 214**].  This note was written by
   ICU attending [**First Name4 (NamePattern1) 215**] [**Last Name (NamePattern1) 216**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2106-1-25**] 17:51 ------

2106-01-26 07:09:00 Physician Resident Progress Note
Chief Complaint: urosepsis after prostate bx
   24 Hour Events:
 FEVER - 101.4
F - [**2106-1-25**] 02:00 PM
   - melena x 2, seen by urology, manula tamponade performed, 2nd episode
   of melena a few hours later, ~300cc, urology called again but they did
   not feel any intervention was warranted, advised to check HCT in am
   - HCT 35>32>32
   - repeat phos 1.3, repleted and Vit D level checked
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2106-1-23**] 06:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-24**] 07:30 PM
   Meropenem - [**2106-1-26**] 03:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-1-26**] 02:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, No Headache or confusion
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, BRBPR
   Genitourinary: No(t) Dysuria, No(t) Foley
   Integumentary (skin): No(t) Rash
   Heme / Lymph: No(t) Coagulopathy
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2106-1-26**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (98.9
   HR: 86 (70 - 92) bpm
   BP: 95/59(68) {83/50(59) - 119/77(85)} mmHg
   RR: 21 (10 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (4 - 13)mmHg
   SvO2: 74%
   Total In:
                                                                  1,600 mL
                                                                    110 mL
   PO:
                                                                  1,200 mL
   TF:
   IVF:
                                                                    400 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  4,990 mL
                                                                    720 mL
   Urine:
                                                                  4,990 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,390 mL
                                                                   -610 mL
   Respiratory support
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): PP,T, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   153 K/uL
   11.5 g/dL
   138 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.0 mEq/L
   11 mg/dL
   106 mEq/L
   135 mEq/L
   33.6 %
   4.6 K/uL
        [image002.jpg]
                             [**2106-1-24**]  01:04 PM
                             [**2106-1-24**]  01:11 PM
                             [**2106-1-24**]  06:00 PM
                             [**2106-1-24**]  06:02 PM
                             [**2106-1-25**]  04:09 AM
                             [**2106-1-25**]  12:10 PM
                             [**2106-1-25**]  02:15 PM
                             [**2106-1-25**]  05:53 PM
                             [**2106-1-25**]  08:59 PM
                             [**2106-1-26**]  05:45 AM
   WBC
   6.2
   7.1
   5.7
   4.6
   Hct
   37
   36
   35.3
   33.5
   34.4
   35.0
   32.0
   31.9
   33.6
   Plt
   141
   143
   151
   153
   Cr
   0.9
   0.9
   0.8
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   131
   112
   111
   138
   Other labs: PT / PTT / INR:11.4/27.2/0.9, CK / CKMB /
   Troponin-T:157/2/<0.01, Lactic Acid:2.0 mmol/L, LDH:223 IU/L, Ca++:8.0
   mg/dL, Mg++:2.2 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   50 y/o M w/ resolving urosepsis after recent prostate bx
   #Sepsis-  Confirmed GNR in blood w/ S/S showing BSR.  Switched from
   gent/zosy to meropenem.  Patient afebrile for 24hrs.  Follow daily
   blood cultures until cleared.
   -          no longer hypotensive, successfully weaned from prossors.
   CVP of 10.
   -          Tight glycemic control, < 150 ISS while in ICU
   -          Will require at least 2 weeks IV antibiotics, but as long as
   4 if prostate abcess.
   #BRBPR:  continued maroon colored stools.  Degree of bleeding improved
   after manual prostate temponade.  Hct stable.
   n        Access confirmed, T + S established
   n        Per urology, some degree of bleeding after prostate
   tolerated.  Feel patient is stable for floor.
   n        Will d/c IV PPI and NPO as feel that have a clear source of
   bleeding no likely GI in nature
   # HO depression
   -          continue wellbutrin at home dose
   #? Brugada syndrome
   n        admission EKG ? small ST elevations in v1-v2 and RBBB, cards
   reportedly called in ED.
   n        Not persistent on EKG, and to us, no concerning for brugada
   and no family hx of SCD.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-1-23**] 10:00 AM
   18 Gauge - [**2106-1-23**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:  Called out to urology today
   ------ Protected Section ------
   -- PICC access requested, will leave central line in place, and d/c
   once PICC placed for long term abx.
   ------ Protected Section Addendum Entered By:[**Name (NI) 220**] [**Last Name (NamePattern1) 214**], MD
   on:[**2106-1-26**] 16:07 ------

2106-01-26 11:01:00 Physician Attending Progress Note
Chief Complaint: Urosepsis
                                 Rectal bleeding
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 yo M with resolving urosepsis after recent prostate bx
   24 Hour Events:
 FEVER - 101.4
F - [**2106-1-25**] 02:00 PM
   * 2 episodes of passing clots rectally
   * Hct decreased 35 to 32, now 33.6
   * Required repletion of low phos and mag
   Denies abd pain or rectal pain
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2106-1-23**] 06:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-24**] 07:30 PM
   Meropenem - [**2106-1-26**] 08:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-1-26**] 02:08 AM
   Other medications:
   ISS, buproprion, SQ heparin, neutraphos
   Changes to medical and family history:
   PMH, SH, RH and ROS unchanged from admission except for that noted
   below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: blood clots
   Flowsheet Data as of  [**2106-1-26**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (99
   HR: 80 (75 - 92) bpm
   BP: 100/62(71) {83/50(59) - 119/77(85)} mmHg
   RR: 22 (20 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (4 - 13)mmHg
   Total In:
                                                                  1,600 mL
                                                                    210 mL
   PO:
                                                                  1,200 mL
   TF:
   IVF:
                                                                    400 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  4,990 mL
                                                                  1,720 mL
   Urine:
                                                                  4,990 mL
                                                                  1,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,390 mL
                                                                 -1,510 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   153 K/uL
   138 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.0 mEq/L
   11 mg/dL
   106 mEq/L
   135 mEq/L
   33.6 %
   4.6 K/uL
        [image002.jpg]
                             [**2106-1-24**]  01:04 PM
                             [**2106-1-24**]  01:11 PM
                             [**2106-1-24**]  06:00 PM
                             [**2106-1-24**]  06:02 PM
                             [**2106-1-25**]  04:09 AM
                             [**2106-1-25**]  12:10 PM
                             [**2106-1-25**]  02:15 PM
                             [**2106-1-25**]  05:53 PM
                             [**2106-1-25**]  08:59 PM
                             [**2106-1-26**]  05:45 AM
   WBC
   6.2
   7.1
   5.7
   4.6
   Hct
   37
   36
   35.3
   33.5
   34.4
   35.0
   32.0
   31.9
   33.6
   Plt
   141
   143
   151
   153
   Cr
   0.9
   0.9
   0.8
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   131
   112
   111
   138
   Other labs: PT / PTT / INR:11.4/27.2/0.9, CK / CKMB /
   Troponin-T:157/2/<0.01, Lactic Acid:2.0 mmol/L, LDH:223 IU/L, Ca++:8.0
   mg/dL, Mg++:2.2 mg/dL, PO4:1.8 mg/dL
   Imaging: Poor penetration, but clear lung fields
   Assessment and Plan:
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB): Hct stable without
   transfusions. Source may be due to bleeding from prostate, but unclear
   why he is still bleeding this far out from procedure. Possible due to
   hypophosphatemia, which can cause platelet dysfunction.
   - Continue to follow serial Hct
   - Maintain IV access, type and cross
 HYPOPHOSPHATEMIA (LOW PHOSPHATE): Etiology unclear. Ddx includes poor
   intake, high intake of calcium with meals, massive volume repletion,
   vitamin D deficiency. Hyperparathyroidism (secondary) though unlikely
   given normal renal function
   - Follow up Vitamin D level, continue supplementation for now
   - Continue Phos repletion and follow levels, goal > 2.0
   - If phos doesn't increase appropriately, consider endocrine consult.
 SEPSIS WITHOUT ORGAN DYSFUNCTION: resolved---Multi-resistant E. Coli
   from GU source following prostate Bx. No longer hypotensive, on
   Meropenem.
   - Would plan for 14-day course of meropenem.
 URINARY TRACT INFECTION (UTI)
   - As above
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   - As above
 .H/O DEPRESSION: Stable on Wellbutrin
   * Question of Brugada syndrome: Will ask  EP to examine his EKGs.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-1-23**] 10:00 AM- can d/c central line once picc in
   place
   18 Gauge - [**2106-1-23**] 10:00 AM
   Comments: Will need PICC for prolonged IV abx
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:   35